US07091353B2
2-azido-N-[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]acetamide I-42
To a suspension of N-[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]-2-chloroacetamide (1.53 g, 4.4 mmol) in acetone (30 ml) was added sodium azide (0.43 g, 6.6 mmol). The mixture was heated to reflux for 18 hours. The solvent was evaporated in vacuo to give 1.49 g (96%) of product as an off-white solid: 1H NMR (DMSO-d6) δ 11.19 (s, 1H), 10.20 (s, 1H), 8.49 (d, J=8.3 Hz, 1H), 7.88 (t, J=7.7 Hz, 1H), 7.68 (d, J=7.3 Hz, 1H), 5.17(dd, J=5.1 and 12.7 Hz, 1H), 4.34 (s, 2H), 2.99–2.84 (m, 1H), 2.65–2.47 (m, 2H), 2.09–2.00 (m, 1H).

reactant | N-[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]-2-chloroacetamide | 4.4 mmol, 1.53 g | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)NC(CCl)=O)=O)=O | C15H12ClN3O5
reactant | sodium azide | 6.6 mmol, 0.43 g | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 2-azido-N-[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]acetamide | 1.49 g, 96% | N(=[N+]=[N-])CC(=O)NC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O | C15H12N6O5
